US05488055
A mixture of 5-amino-1-ethylpyrazole (5.0 g, 45 mmol), 2-bromo-4,5-dimethoxybenzoic acid (11.76 g, 45 mmol), K2CO3 (6.21 g, 45 mmol), Cu(OAc)2 (0.8 g, 400 mmol) and DMF (125 ml) was refluxed overnight. The reaction mixture was cooled, poured into water and acidified with acetic acid. The resulting solid was collected by filtration and dried to afford 12.8 g (97%) of N-(1-ethylpyrazol-5-yl)-4,5-dimethoxyanthranilic acid.

reactant | 5-amino-1-ethylpyrazole | 45 mmol, 5.0 g | NC1=CC=NN1CC | C5H9N3
reactant | 2-bromo-4,5-dimethoxybenzoic acid | 45 mmol, 11.76 g | BrC1=C(C(=O)O)C=C(C(=C1)OC)OC | C9H9BrO4
reactant | K2CO3 | 45 mmol, 6.21 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 125 ml | CN(C)C=O | C3H7NO
catalyst | Cu(OAc)2 | 400 mmol, 0.8 g | CC(=O)[O-].CC(=O)[O-].[Cu+2]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | N-(1-ethylpyrazol-5-yl)-4,5-dimethoxyanthranilic acid | 12.8 g, 97% | C(C)N1N=CC=C1NC=1C(C(=O)O)=CC(=C(C1)OC)OC | C14H17N3O4
